US04022766
(a) 4-Amino-3-benzoyl-2-methyl-5-phenylpyrrole
2-Amino-2-phenyl-acetonitrile (0.04 mole) and benzoyl acetone (0.04 mole) are refluxed for four hours in 30 ml. of anhydrous benzene in the presence of 100 mg. of p-toluenesulfonic acid. After cooling the reaction mixture is filtered and the solvent is evaporated off to give an oily residue which is dissolved in an ethanol solution containing sodium ethoxide (0.041 mole) and the mixture is allowed to stand for 12 hours at the room temperature. The solid precipitate which forms is recovered by filtration.

reactant | 2-Amino-2-phenyl-acetonitrile | 0.04 mole | NC(C#N)C1=CC=CC=C1 | C8H8N2
reactant | benzoyl acetone | 0.04 mole | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium ethoxide | 0.041 mole | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-Amino-3-benzoyl-2-methyl-5-phenylpyrrole | NC=1C(=C(NC1C1=CC=CC=C1)C)C(C1=CC=CC=C1)=O | C18H16N2O
